US09302989B2
5-(hydroxymethyl)-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
A solution of calcium chloride (0.031 g, 0.277 mmol) in ethanol (0.8 mL) was added to a suspension of methyl 2-(4-(propylcarbamoyl)phenylcarbamoyl)isoindoline-5-carboxylate (0.04 g, 0.105 mmol) in tetrahydrofuran (1 mL). Sodium borohydride (0.02 g, 0.524 mmol) was then added in one portion and the suspension stirred at room temperature. After 18 hours, the mixture was concentrated to remove tetrahydrofuran then saturated aqueous sodium bicarbonate and water was added. The suspension was filtered and the solid was flash chromatographed to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.55 (s, 1H), 8.25 (t, J=5.6 Hz, 1H), 7.74-7.78 (m, 2H), 7.64-7.67 (m, 2H), 7.31 (d, J=4.0 Hz, 1H), 7.30 (d, J=2.3 Hz, 1H), 7.26 (d, J=8.0 Hz, 1H), 5.19 (t, J=5.6 Hz, 1H), 4.71-4.78 (m, 4H), 4.52 (d, J=5.4 Hz, 2H), 3.15-3.25 (m, 2H), 1.46-1.59 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 354 (M+H)+.

reactant | calcium chloride | 0.277 mmol, 0.031 g | [Cl-].[Ca+2].[Cl-]
reactant | methyl 2-(4-(propylcarbamoyl)phenylcarbamoyl)isoindoline-5-carboxylate | 0.105 mmol, 0.04 g | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)OC | C21H23N3O4
reactant | Sodium borohydride | 0.524 mmol, 0.02 g | [BH4-].[Na+]
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-(hydroxymethyl)-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | OCC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C20H23N3O3
